US05438140
Preparation of ethyl 4-pyridiniumacetoacetate chloride
The title compound was prepared as described in Example 1 from pyridine and ethyl 4-chloroacetoacetate in a yield of 70%.

reactant | ethyl 4-chloroacetoacetate | ClCC(CC(=O)OCC)=O | C6H9ClO3
reactant | pyridine | N1=CC=CC=C1 | C5H5N
product | ethyl 4-pyridiniumacetoacetate chloride | yield of 70% | [Cl-].C(CC(=O)C)(=O)[O-].C(C)C1=NC=C[CH2+]=C1.C(C)C1=NC=C[CH2+]=C1 | InChI=1S/2C7H10N.C4H6O3.ClH/c2*1-2-7-5-3-4-6-8-7;1-3(5)2-4(6)7;/h2*4-6H,2-3H2,1H3;2H2,1H3,(H,6,7);1H/q2*+1;;/p-2
